US07049307B2
2-(2-piperidin-1-yl-ethyl)-2H-indazol-5-ylamine
5-Nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole (0.325 g, 1.18 mmol), iron powder (0.659 g, 11.8 mmol) and ammonium chloride (0.0317 g, 0.592 mmol) was suspended in a 4:1 ethanol/H2O solution and heated to reflux for 3 hours. The mixture was cooled to room temperature, the solvent were removed in vacuo and the residue stirred in triethylamine/ethyl acetate (1/4, 30 mL) for 15 minutes. The mixture was filtered through a plug of silica gel, rinsed with triethylamine/ethyl acetate (1/4) and the filtrate was concentrated to afford the title product. 1H NMR (300 MHz, DMSO-d6) ppm 1.31–1.52 (m, 6H) 2.40 (m, 4H), 2.78 (m, 2H), 4.38 (t, 2H, J=6.78), 4.79 (s, 2H), 6.55 (m, 1H), 6.72 (m, 1H), 7.29 (s, 1H), 7.89 (s, 1H); MS (DCI/NH3) m/z 245 [M+H]+.

reactant | 5-Nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole | 1.18 mmol, 0.325 g | [N+](=O)([O-])C1=CC2=CN(N=C2C=C1)CCN1CCCC1 | C13H16N4O2
reactant | ammonium chloride | 0.592 mmol, 0.0317 g | [Cl-].[NH4+]
reactant | ethanol H2O | C(C)O.O
catalyst | iron | 11.8 mmol, 0.659 g | [Fe] | Fe
product | 2-(2-piperidin-1-yl-ethyl)-2H-indazol-5-ylamine | N1(CCCCC1)CCN1N=C2C=CC(=CC2=C1)N | C14H20N4
